US06204277B1
2-Methoxycarbonyl-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionic acid
Dimethyl 2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate (8.46 g, 20 mmol) synthesized according to the method described in WO95/18125 was dissolved in a mixture of methanol (80 ml) and tetrahydrofuran (40 ml), and 2N aqueous sodium hydroxide solution (11 ml, 22 mmol) was added at 0° C. The mixture was stirred for 1.5 hr at room temperature and the solvent was evaporated. A saturated aqueous solution (5 ml) of sodium hydrogencarbonate was added and the aqueous layer was washed with ethyl acetate. To the obtained aqueous layer was added sodium chloride to saturate the solution, and the mixture was acidified with 1N hydrochloric acid and washed three times with ethyl acetate (50 ml). The extracted organic layers were combined, washed with brine, dried over sodium sulfate and dried to solidness to give a crude title compound (8.2 g, yield 100%). The obtained crude compound (750 mg) was recrystallized from a mixed solvent of ethyl acetate-hexane (1:2) to give the title compound (540 mg) as a white solid.

reactant | Dimethyl 2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate | 20 mmol, 8.46 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1 | C24H25NO6
reactant | sodium hydroxide | 22 mmol, 2N, 11 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Methoxycarbonyl-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionic acid | 540 mg | COC(=O)C(C(=O)O)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C23H23NO6
